US07384949B2
3-(4-(2-Furyl)thieno[3,2-d]pyrimidine-2-yl)propionic Acid (Example 49)
A solution of ethyl 3-(4-(2-furyl)thieno[3,2-d]pyrimidine-2-yl)propionate (0.07 g, 0.23 mmol) in THF (1.0 mL) and water (1.0 mL) was treated with lithium hydroxide (0.10 g, 2.32 mmol), stirred at room temperature for 16 h, concentrated in vacuo, dissolved in water, acidified to pH 2 by the addition of HCl (0.1 mL, 6.0-M), cooled in ice and filtered to give the title compound (0.052 g, 81%) as a white solid.

reactant | ethyl 3-(4-(2-furyl)thieno[3,2-d]pyrimidine-2-yl)propionate | 0.23 mmol, 0.07 g | O1C(=CC=C1)C=1C2=C(N=C(N1)CCC(=O)OCC)C=CS2 | C15H14N2O3S
reactant | lithium hydroxide | 2.32 mmol, 0.10 g | [OH-].[Li+]
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | water | 1.0 mL | O | H2O
product | 3-(4-(2-Furyl)thieno[3,2-d]pyrimidine-2-yl)propionic Acid | 0.052 g, 81% | O1C(=CC=C1)C=1C2=C(N=C(N1)CCC(=O)O)C=CS2 | C13H10N2O3S
